US04001290
About 522 parts by weight of an isomeric mixture of about 80 parts of 2,4-toluene diisocyanate and 20 parts of 2,6-toluene diisocyanate, about 25 parts of nitrobenzene and about 600 parts by volume of toluene are treated and worked up as described in Example 1. A polyisocyanate mixture which consists substantially of 2 mols of tris-(1-methyl-2-isocyanatophenyl)biuret and 1 mol of N-phenyl-N',N"-bis-(1-methyl-2-isocyanatophenyl)biuret is obtained in a yield of about 480 parts; NCO content about 22.9%.

reactant | 2,4-toluene diisocyanate | CC1=C(C=C(C=C1)N=C=O)N=C=O | C9H6N2O2
reactant | 2,6-toluene diisocyanate | CC1=C(C=CC=C1N=C=O)N=C=O | C9H6N2O2
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | tris-(1-methyl-2-isocyanatophenyl)biuret | 2 mols | CC1(C(C=CC=C1)N=C=O)N(C(N(C1(C(C=CC=C1)N=C=O)C)C1(C(C=CC=C1)N=C=O)C)=O)C(=O)N | C26H26N6O5
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-phenyl-N',N"-bis-(1-methyl-2-isocyanatophenyl)biuret | 1 mol | C1(=CC=CC=C1)NC(=O)N(C(=O)NC1(C(C=CC=C1)N=C=O)C)C1(C(C=CC=C1)N=C=O)C | C24H23N5O4
